US07012084B2
Acetyl chloride (1.71 mL, 24.0 mmol) was added to a solution crude tert-butyl 4-{2-[(1S)-1-aminoethyl]-4-chlorophenyl}piperidine-1-carboxylate (5.42 g of ˜70% pure material, 11.2 mmol) and triethylamine (6.69 mL, 48.0 mmol) in methylene chloride at approximately 0° C. After 2 h, the reaction mixture was poured into water and extracted three times with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated in vacuo. Purification of the crude residue by flash chromatography on silica gel (gradient elution; 35–50% ethyl acetate/hexanes as eluent) provided tert-butyl 4-{2-[(1S)-1-(acetylamino)ethyl]-4-chlorophenyl }piperidine-1-carboxylate as a pale yellow foam. If desired, traces of the minor R-enantiomer could be removed using preparative chiral high pressure liquid chromatography on CHIRALPAK AD Phase (7.5% ethanol/heptanes as eluent) to give in order of elution: R-enantiomer as a colorless solid followed by the S-enantiomer as a colorless solid.

reactant | Acetyl chloride | 24.0 mmol, 1.71 mL | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 4-{2-[(1S)-1-aminoethyl]-4-chlorophenyl}piperidine-1-carboxylate | 11.2 mmol, 5.42 g | N[C@@H](C)C1=C(C=CC(=C1)Cl)C1CCN(CC1)C(=O)OC(C)(C)C | C18H27ClN2O2
reactant | triethylamine | 48.0 mmol, 6.69 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-{2-[(1S)-1-(acetylamino)ethyl]-4-chlorophenyl }piperidine-1-carboxylate | C(C)(=O)N[C@@H](C)C1=C(C=CC(=C1)Cl)C1CCN(CC1)C(=O)OC(C)(C)C | C20H29ClN2O3
